US05025036
A mixture of 0.6 g of 3-chloro-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid and 60 mg of 10% palladium on carbon in 20 ml of tetrahydrofuran was stirred in a hydrogen atmosphere for 6 hours. Workup as in Example 36 and recrystallization from ethyl acetate-hexane gave 0.24 g, mp benzoic acid.

reactant | 3-chloro-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid | 0.6 g | ClC=1C=C(C(=O)O)C=CC1OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H33ClO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
